// Test non-ideal relay model

simulator lang=spectre

ahdl_include "relay.vams"

Vin  (in 0) vsource type=sine ampl=1 freq=1kHz
RL1  (out 0 in 0) relay ron=1 roff=10
Rout (out 0) resistor r=1
Iout (out 0) isource type=sine ampl=1 freq=10kHz

doTran tran stop=2ms
